US05424277
Then, ethyl alcohol (20 ml) and a 2N aqueous solution of sodium hydroxide (30 ml) were added to the resulting methyl N-{2-fluoro-4-chloro-5-(3-methylcyclopentyl)oxyphenyl}carbamate (3.45 g, 11.4 mmol), followed by stirring for 3 hours under refluxing. After completion of the reaction, the reaction mixture was extracted with ethyl acetate (50 ml×3 times). The organic layer was washed with a saturated aqueous sodium chloride solution, dried, and the solvent was distilled off under reduced pressure to obtain 2-fluoro-4-chloro-5-(3-methylcyclopentyl)oxyaniline (1.77 g, 7.26 mmol, 63.64 yield). 1H-NMR Spectrum (CDCl3, TMS, ppm): δ1.02 and 1.10 (total 3H, d, J=6.0 Hz), 1.22-2.58 (7H, m), 3.75 (2H, br, s), 4.65 (1H, m), 6.33 (1H, d, JHF =8.0 Hz), 6.98 (1H, d, JHF =10.0 Hz).

reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | methyl N-{2-fluoro-4-chloro-5-(3-methylcyclopentyl)oxyphenyl}carbamate | 11.4 mmol, 3.45 g | FC1=C(C=C(C(=C1)Cl)OC1CC(CC1)C)NC(OC)=O | C14H17ClFNO3
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 2-fluoro-4-chloro-5-(3-methylcyclopentyl)oxyaniline | 7.26 mmol, 1.77 g | FC1=C(N)C=C(C(=C1)Cl)OC1CC(CC1)C | C12H15ClFNO
